US09120805B2
82 mg (0.252 mmol) 2-Hydroxymethyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one are treated with thionyl chloride in dichloromethane similar to WO2010/043676 (example G02) to give 2-chloromethyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one as pale pink crystals; HPLC/MS 1.91 min (C), [M+H] 344;

reactant | 2-Hydroxymethyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one | 0.252 mmol, 82 mg | OCC1=NN2C(C(NC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O)=C1 | C14H10F3N3O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloromethyl-6-(4-trifluoromethoxy-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one | ClCC1=NN2C(C(NC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O)=C1 | C14H9ClF3N3O2
